US04281188
A solution of 2 g of phosgene in 20 ml of ice-cold 1,2-dichloroethane is placed in a sulphonation flask. There is added dropwise thereto a solution of 4 g (0.012 M) of (S)-7-amino-6-chloro-5-(o-fluorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one in 40 ml of 1,2-dichloroethane while cooling with ice and stirring in such a manner that the temperature does not exceed 10° C. The mixture is then stirred at room temperature for 45 minutes. The resulting solution of (S)-[6-chloro-5-(o-fluorophenyl)-2,3-dihydro-1,3-dimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]isocyanate is cooled with ice and slowly made alkaline with 6 ml of triethylamine. A solution of 2 ml of 2-aminoethanol in 20 ml of 1,2-dichloroethane is treated with the foregoing pre-prepared solution, the mixture is stirred at room temperature for 30 minutes and then concentrated. The residue is purified on a 300 g silica gel column using methylene chloride and then methylene chloride/ethanol (20:1) as the eluting agent and crystallised from a small amount of ethyl acetate/n-hexane. There is obtained (S)-1-[6-chloro-5-(o-fluorophenyl)-2,3-dihydro-1,3-dimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-3-(2-hydroxyethyl)urea which melts above 147° C. with decomposition; [α]25D =+192.2° (in dioxan; 1%).

reactant | phosgene | 2 g | C(=O)(Cl)Cl | CCl2O
reactant | (S)-7-amino-6-chloro-5-(o-fluorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one | 0.012 M, 4 g | NC=1C=CC2=C(C(=N[C@H](C(N2C)=O)C)C2=C(C=CC=C2)F)C1Cl | C17H15ClFN3O
reactant | (S)-[6-chloro-5-(o-fluorophenyl)-2,3-dihydro-1,3-dimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]isocyanate | ClC1=C(C=CC2=C1C(=N[C@H](C(N2C)=O)C)C2=C(C=CC=C2)F)N=C=O | C18H13ClFN3O2
reactant | 2-aminoethanol | 2 ml | NCCO | C2H7NO
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
solvent | triethylamine | 6 ml | C(C)N(CC)CC | C6H15N
product | (S)-1-[6-chloro-5-(o-fluorophenyl)-2,3-dihydro-1,3-dimethyl-2-oxo-1H-1,4-benzodiazepin-7-yl]-3-(2-hydroxyethyl)urea | ClC1=C(C=CC2=C1C(=N[C@H](C(N2C)=O)C)C2=C(C=CC=C2)F)NC(=O)NCCO | C20H20ClFN4O3
